US06525218B2
Japanese Unexamined Patent Application Publication No. 54-163516 discloses a process for producing a sorbic acid. In this process, a polyester obtained from ketene and crotonaldehyde is decomposed with hydrochloric acid in the presence of, for example, a urea compound, the resulting decomposition reaction mixture is filtrated and rinsed to yield a crude sorbic acid, followed by addition of an aqueous sodium hydroxide solution to the crude sorbic acid to thereby yield an aqueous sodium sorbate solution, the aqueous sodium sorbate solution is treated with activated carbon, is neutralized and is cooled to thereby crystallize sorbic acid.

reactant | hydrochloric acid | Cl | ClH
reactant | urea | NC(=O)N | CH4N2O
reactant | sodium hydroxide | [OH-].[Na+]
reactant | sorbic acid | C(\C=C\C=C\C)(=O)O | C6H8O2
product | sodium sorbate | C(\C=C\C=C\C)(=O)[O-].[Na+] | InChI=1S/C6H8O2.Na/c1-2-3-4-5-6(7)8;/h2-5H,1H3,(H,7,8);/q;+1/p-1/b3-2+,5-4+;
